US09226915B2
Synthesis of N-Trifluoroacetyl-3,3-Dinitroazetidine
A 100 ml, three neck round bottom flask was charged with 2.28 grams of tert-butyl-3,3-dinitroazetidine (t-BDNAZ) under nitrogen. 10 mL of trifluoroacetic anhydride was added followed by the addition of 0.3 mL of boron trifluoride etherate. The reaction mixture was heated to 50° C. and monitored by NMR. The reaction was concentrated under vacuum. The residual oil was washed with water. The residual oil was added to hot hexanes and to afford 460 mg of white needles (mp: 70-71° C.). Analysis for C5H4F3N3O5: Found C: H: N: Calculated C: 24.70%, H: 1.66%, N: 17.29%. FTIR: 2991 (weak), 1716, 1683.96, 1591.37, 1576.43 (NO2), 1165.92, 1134.12 cm−1. 1H NMR: (DMSO-d6), δ 5.39 (2H), 5.04 (2H). HPLC: >96% pure. Safety Data: ABL Friction: 800@8 ft/sec; TC ESD Unconfined at 50%: >8 Joules. DSC Onset: 240.75° C.s

reactant | tert-butyl-3,3-dinitroazetidine | 2.28 grams | C(C)(C)(C)N1CC(C1)([N+](=O)[O-])[N+](=O)[O-] | C7H13N3O4
reactant | boron trifluoride etherate | 0.3 mL | B(F)(F)F.CCOCC
reactant | trifluoroacetic anhydride | 10 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-Trifluoroacetyl-3,3-Dinitroazetidine | 460 mg | FC(C(=O)N1CC(C1)([N+](=O)[O-])[N+](=O)[O-])(F)F | C5H4F3N3O5
